### PR TITLE
feat: add declaration and basic API for `CFC.abs`

### PR DESCRIPTION
**Pull request by JonBannon**
Includes two new files with basic declarations for `CFC.abs`.

### CODE REVIEW

File: LeanOA/ForMathlib/Analysis/CStarAlgebra/SpecialFunctions/Abs.lean [hunk 1]
```diff
@@ -0,0 +1,172 @@
...
+    abs a = cfcₙ (‖·‖) a := by
+   simp only [abs, Real.norm_eq_abs, ← Real.sqrt_sq_eq_abs, sq]
+   rw [sqrt_eq_cfcₙ_real_sqrt (star_mul_self_nonneg a), ha.star_eq, cfcₙ_sqrt_mul_self ha]
+
+lemma abs_eq_zero_iff {a : A} : abs a = 0 ↔ a = 0 := by
+  rw [abs, sqrt_eq_zero_iff _, CStarRing.star_mul_self_eq_zero_iff]
+
+@[aesop safe apply (rule_sets := [CStarAlgebra])]
+theorem IsSelfAdjoint.mul_self_nonneg {a : A} (ha : IsSelfAdjoint a) : 0 ≤ a * a := by
+  simpa [ha.star_eq] using star_mul_self_nonneg a
```
Comment (j-loreaux) [inline LeanOA/ForMathlib/Analysis/CStarAlgebra/SpecialFunctions/Abs.lean:79]: This is in Mathlib already (maybe it isn't before the bump, I'm not sure), but right now you wouldn't know because the name is wrong. Currently, it's `CFC.IsSelfAdjoint.mul_self_nonneg` instead of `_root_.IsSelfAdjoint.mul_self_nonneg`. You should just be able to delete this and everything will compile.

File: LeanOA/ForMathlib/Analysis/CStarAlgebra/SpecialFunctions/Abs.lean [hunk 2]
```diff
@@ -0,0 +1,172 @@
...
+
+open ComplexOrder in
+lemma cfcₙ_norm_sq_nonneg {f : ℂ → ℂ} {a : A} : 0 ≤ cfcₙ (fun z ↦ star (f z) * (f z)) a :=
+  cfcₙ_nonneg fun _ _ ↦ star_mul_self_nonneg _
```
Comment (j-loreaux) [inline LeanOA/ForMathlib/Analysis/CStarAlgebra/SpecialFunctions/Abs.lean:83]: This is more general, please generalize it.

File: LeanOA/ForMathlib/Analysis/CStarAlgebra/SpecialFunctions/Abs.lean [hunk 3]
```diff
@@ -0,0 +1,172 @@
...
+
+open ComplexOrder in
+lemma cfcₙ_norm_nonneg {a : A} : 0 ≤ cfcₙ (fun z : ℂ ↦ (‖z‖ : ℂ)) a :=
+  cfcₙ_nonneg fun _ _ ↦ by simp only [Complex.norm_eq_abs, Complex.zero_le_real, apply_nonneg]
```
Comment (j-loreaux) [inline LeanOA/ForMathlib/Analysis/CStarAlgebra/SpecialFunctions/Abs.lean:87]: This should generalize to `RCLike`.

File: LeanOA/ForMathlib/Analysis/CStarAlgebra/SpecialFunctions/Abs.lean [hunk 4]
```diff
@@ -0,0 +1,172 @@
...
+lemma abs_add_self (a : A) (ha : IsSelfAdjoint a) : abs a + a = 2 • a⁺ := by
+  nth_rw 2 [← CFC.posPart_sub_negPart a]
+  rw [CFC.posPart_add_negPart a]
+  abel
+
+/- This belongs in a different file when brought to Mathlib. -/
+instance IsStarNormal.smul {R A : Type*} [SMul R A] [Star R] [Star A] [Mul A]
+    [StarModule R A] [SMulCommClass R A A] [IsScalarTower R A A]
+    (r : R) (a : A) [ha : IsStarNormal a] : IsStarNormal (r • a) where
+  star_comm_self := star_smul r a ▸ ha.star_comm_self.smul_left (star r) |>.smul_right r
```
Comment (j-loreaux) [inline LeanOA/ForMathlib/Analysis/CStarAlgebra/SpecialFunctions/Abs.lean:121]: please put it in a different file even now.

File: LeanOA/ForMathlib/Analysis/CStarAlgebra/SpecialFunctions/Abs.lean [hunk 5]
```diff
@@ -0,0 +1,172 @@
...
+  exact cfcₙ_congr fun x hx ↦ Complex.conj_mul' x
+
+lemma abs_eq_cfcₙ_norm_complex {a : A} (ha : IsStarNormal a) :
+    abs a = cfcₙ (fun z : ℂ ↦ (‖z‖ : ℂ)) a := by
+  conv_lhs => rw [abs, ← abs_sq_eq_star_mul_self, sqrt_eq_cfcₙ_real_sqrt, cfcₙ_real_eq_complex,
+    abs_sq_eq_cfcₙ_norm_sq_complex ha, ← cfcₙ_comp' ..]
+  exact cfcₙ_congr fun x hx ↦ by simp [sq]
+
+lemma abs_of_nonneg {a : A} (ha : 0 ≤ a) : abs a = a := by
+  rw [abs, ha.star_eq, sqrt_mul_self a ha]
```
Comment (j-loreaux) [inline LeanOA/ForMathlib/Analysis/CStarAlgebra/SpecialFunctions/Abs.lean:101]: This should go at the beginning. It needs almost no assumptions.

File: LeanOA/ForMathlib/Analysis/CStarAlgebra/SpecialFunctions/Abs.lean [hunk 6]
```diff
@@ -0,0 +1,172 @@
...
+lemma sqrt_eq_cfcₙ_real_sqrt {a : A} (ha : 0 ≤ a := by cfc_tac) :
+    CFC.sqrt a = cfcₙ Real.sqrt a := by
+  rw [sqrt_eq_iff _ (hb := cfcₙ_nonneg (A := A) (fun x _ ↦ Real.sqrt_nonneg x)),
+    ← cfcₙ_mul ..]
+  conv_rhs => rw [← cfcₙ_id (R := ℝ) a]
+  refine cfcₙ_congr fun x hx ↦ ?_
+  refine Real.mul_self_sqrt ?_
+  exact quasispectrum_nonneg_of_nonneg a ha x hx
+
+variable {A : Type*} [NonUnitalCStarAlgebra A]
```
Comment (j-loreaux) [inline LeanOA/ForMathlib/Analysis/CStarAlgebra/SpecialFunctions/Abs.lean:55]: I think this is too strong for a lot of what follows.

File: LeanOA/ForMathlib/Analysis/CStarAlgebra/SpecialFunctions/Abs.lean [hunk 7]
```diff
@@ -0,0 +1,172 @@
...
+  conv_lhs => rw [abs, ← abs_sq_eq_star_mul_self, sqrt_eq_cfcₙ_real_sqrt, cfcₙ_real_eq_complex,
+    abs_sq_eq_cfcₙ_norm_sq_complex ha, ← cfcₙ_comp' ..]
+  exact cfcₙ_congr fun x hx ↦ by simp [sq]
+
+lemma abs_of_nonneg {a : A} (ha : 0 ≤ a) : abs a = a := by
+  rw [abs, ha.star_eq, sqrt_mul_self a ha]
+
+protected lemma posPart_add_negPart (a : A) (ha : IsSelfAdjoint a := by cfc_tac) : abs a = a⁺ + a⁻ := by
+  rw [CFC.posPart_def, CFC.negPart_def, ← cfcₙ_add .., abs_eq_cfcₙ_norm ha]
+  exact cfcₙ_congr fun x hx ↦ (posPart_add_negPart x).symm
```
Comment (j-loreaux) [inline LeanOA/ForMathlib/Analysis/CStarAlgebra/SpecialFunctions/Abs.lean:105]: I think this should only require an `ℝ`-algebra. You want to avoid `ℂ` so that all this will work for real C⋆-algebras in the future.

File: LeanOA/ForMathlib/Analysis/CStarAlgebra/SpecialFunctions/Abs.lean [hunk 8]
```diff
@@ -0,0 +1,172 @@
...
+  abel
+
+/- This belongs in a different file when brought to Mathlib. -/
+instance IsStarNormal.smul {R A : Type*} [SMul R A] [Star R] [Star A] [Mul A]
+    [StarModule R A] [SMulCommClass R A A] [IsScalarTower R A A]
+    (r : R) (a : A) [ha : IsStarNormal a] : IsStarNormal (r • a) where
+  star_comm_self := star_smul r a ▸ ha.star_comm_self.smul_left (star r) |>.smul_right r
+
+lemma abs_smul_complex (r : ℂ) (a : A) : abs (r • a) = ‖r‖ • abs a := by
+  have : 0 ≤ ‖r‖ • abs a := smul_nonneg (by positivity) abs_nonneg
```
Comment (j-loreaux) [inline LeanOA/ForMathlib/Analysis/CStarAlgebra/SpecialFunctions/Abs.lean:124]: Please leave a TODO saying that there is a probably a version that works for `RCLike`.

File: LeanOA/ForMathlib/Analysis/CStarAlgebra/SpecialFunctions/Abs.lean [hunk 9]
```diff
@@ -0,0 +1,172 @@
...
+
+lemma abs_smul_real (r : ℝ) (a : A) : abs (r • a) = |r| • abs a := by
+  simpa only [Complex.coe_smul, Complex.norm_real, Real.norm_eq_abs] using abs_smul_complex (Complex.ofReal r) _
+
+end NonUnital
+
+section Unital
+
+variable {A : Type*} [CStarAlgebra A] [PartialOrder A] [StarOrderedRing A]
+
```
Comment (j-loreaux) [inline LeanOA/ForMathlib/Analysis/CStarAlgebra/SpecialFunctions/Abs.lean:138]: I think you can reduce the type class assumptions a lot here.

File: LeanOA/ForMathlib/Analysis/CStarAlgebra/SpecialFunctions/Abs.lean [hunk 10]
```diff
@@ -0,0 +1,172 @@
...
+lemma abs_smul_complex (r : ℂ) (a : A) : abs (r • a) = ‖r‖ • abs a := by
+  have : 0 ≤ ‖r‖ • abs a := smul_nonneg (by positivity) abs_nonneg
+  rw [abs, CFC.sqrt_eq_iff _ _ (star_mul_self_nonneg _) this]
+  simp only [mul_smul_comm, smul_mul_assoc, star_smul, abs_mul_self_eq_star_mul_self]
+  match_scalars
+  simp only [Complex.coe_algebraMap, ← sq, mul_one, RCLike.star_def, mul_comm r, Complex.conj_mul']
+
+lemma abs_smul_real (r : ℝ) (a : A) : abs (r • a) = |r| • abs a := by
+  simpa only [Complex.coe_smul, Complex.norm_real, Real.norm_eq_abs] using abs_smul_complex (Complex.ofReal r) _
```
Comment (j-loreaux) [inline LeanOA/ForMathlib/Analysis/CStarAlgebra/SpecialFunctions/Abs.lean:131]: please add an `ℝ≥0` version.

File: LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean [hunk 11]
```diff
@@ -0,0 +1,68 @@
...
+@[simp]
+lemma abs_zero : abs (0 : A) = 0 := by
+  rw [abs, star_zero, mul_zero, sqrt_zero]
+
+-- It's likely that using these variables warrants a different section
+
+variable [StarOrderedRing A] [UniqueNonUnitalContinuousFunctionalCalculus ℝ≥0 A]
+
+lemma abs_mul_self_eq_star_mul_self (a : A) : (abs a) * (abs a) = star a * a := by
+  refine sqrt_mul_sqrt_self _ <| star_mul_self_nonneg _
```
Comment (j-loreaux) [inline LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean:49]:
```suggestion
lemma abs_mul_self (a : A) : (abs a) * (abs a) = star a * a := by
  refine sqrt_mul_sqrt_self _ <| star_mul_self_nonneg _
```

File: LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean [hunk 12]
```diff
@@ -0,0 +1,68 @@
...
+
+lemma abs_sq_eq_star_mul_self (a : A) : (abs a) ^ (2 : NNReal) = star a * a := by
+  simp only [abs_nonneg, nnrpow_two]
```
Comment (j-loreaux) [inline LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean:52]: generally `sq` means `2 : ℕ`.
```suggestion
lemma abs_nnrpow_two (a : A) : (abs a) ^ (2 : NNReal) = star a * a := by
  simp only [abs_nonneg, nnrpow_two]
```

File: LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean [hunk 13]
```diff
@@ -0,0 +1,68 @@
...
+  apply abs_mul_self_eq_star_mul_self
+
+lemma abs_pow_eq_star_mul_self_pow (a : A) (x : ℝ≥0) :
+    (abs a) ^ (2 * x) = (star a * a) ^ x := by rw [← nnrpow_nnrpow, abs_sq_eq_star_mul_self]
```
Comment (j-loreaux) [inline LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean:56]:
```suggestion
lemma abs_nnrpow_two_mul (a : A) (x : ℝ≥0) :
    (abs a) ^ (2 * x) = (star a * a) ^ x := by rw [← nnrpow_nnrpow, abs_sq_eq_star_mul_self]
```

File: LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean [hunk 14]
```diff
@@ -0,0 +1,68 @@
...
+
+/-- This and the previous need new names. -/
+lemma abs_pow_eq_star_mul_self_pow_by_two (a : A) (x : ℝ≥0) :
+    (abs a) ^ x = (star a * a) ^ (x / 2) := by
```
Comment (j-loreaux) [inline LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean:60]:
```suggestion
lemma abs_nnrpow (a : A) (x : ℝ≥0) :
    (abs a) ^ x = (star a * a) ^ (x / 2) := by
```

**Review by j-loreaux — COMMENTED** [review]
There's a lot to clean up here, but it's a nice start.

File: LeanOA/ForMathlib/Analysis/CStarAlgebra/SpecialFunctions/Abs.lean [hunk 15]
```diff
@@ -0,0 +1,172 @@
...
+  [NonUnitalContinuousFunctionalCalculus ℝ (IsSelfAdjoint : A → Prop)]
+
+lemma mul_self_eq_mul_self {a : A} (ha : IsSelfAdjoint a) : a * a =
+    cfcₙ (fun (x : ℝ) ↦ x * x) a := by
+  conv_lhs => rw [← cfcₙ_id' ℝ a, ← cfcₙ_mul ..]
+
+variable [UniqueNonUnitalContinuousFunctionalCalculus ℝ A]
+
+lemma cfcₙ_sqrt_mul_self {a : A} (ha : IsSelfAdjoint a) :
+    cfcₙ Real.sqrt (a * a) = cfcₙ (fun x ↦ √(x * x)) a := by
```
[the remark this answers is not in the document]
Comment (JonBannon) [reply LeanOA/ForMathlib/Analysis/CStarAlgebra/SpecialFunctions/Abs.lean:36]: Oops! I thought I marked that one for extraction.

File: LeanOA/ForMathlib/Analysis/CStarAlgebra/SpecialFunctions/Abs.lean [hunk 16]
```diff
@@ -0,0 +1,172 @@
...
+
+import LeanOA.ForMathlib.Analysis.SpecialFunctions.ContinuousFunctionalCalculus.Abs
+import LeanOA.ForMathlib.Analysis.SpecialFunctions.ContinuousFunctionalCalculus.PosPart
+import Mathlib.Analysis.CStarAlgebra.ContinuousFunctionalCalculus.Instances
+import Mathlib.Analysis.CStarAlgebra.ContinuousFunctionalCalculus.Order
+
+/-!
+# Absolute value of an operator defined via the continuous functional calculus
+
+This file provides basic API for `CFC.abs` for `CStarAlgebra`s.
```
[the remark this answers is not in the document]
Comment (JonBannon) [reply LeanOA/ForMathlib/Analysis/CStarAlgebra/SpecialFunctions/Abs.lean:15]: Ok. Will play around with which ones...

File: LeanOA/ForMathlib/Analysis/CStarAlgebra/SpecialFunctions/Abs.lean [hunk 17]
```diff
@@ -0,0 +1,172 @@
...
+lemma cfcₙ_sqrt_mul_self {a : A} (ha : IsSelfAdjoint a) :
+    cfcₙ Real.sqrt (a * a) = cfcₙ (fun x ↦ √(x * x)) a := by
+  rw [mul_self_eq_mul_self ha, ← cfcₙ_comp a (f := fun x ↦ x * x) (g := fun x ↦ √x),
+     Function.comp_def]
+
+variable {A : Type*} [PartialOrder A] [NonUnitalNormedRing A] [StarRing A]
+   [Module ℝ A] [SMulCommClass ℝ A A] [IsScalarTower ℝ A A]
+   [NonUnitalContinuousFunctionalCalculus ℝ (IsSelfAdjoint : A → Prop)]
+   [UniqueNonUnitalContinuousFunctionalCalculus ℝ≥0 A]
+   [StarOrderedRing A] [NonnegSpectrumClass ℝ A]
```
[the remark this answers is not in the document]
Comment (JonBannon) [reply LeanOA/ForMathlib/Analysis/CStarAlgebra/SpecialFunctions/Abs.lean:44]: Yikes.

File: LeanOA/ForMathlib/Analysis/CStarAlgebra/SpecialFunctions/Abs.lean (hunk 6 above)
Comment (JonBannon) [reply LeanOA/ForMathlib/Analysis/CStarAlgebra/SpecialFunctions/Abs.lean:55]: OK.

File: LeanOA/ForMathlib/Analysis/CStarAlgebra/SpecialFunctions/Abs.lean (hunk 3 above)
Comment (JonBannon) [reply LeanOA/ForMathlib/Analysis/CStarAlgebra/SpecialFunctions/Abs.lean:87]: OK. So I imagine I need another version for `RCLike`, and also keep this one.

File: LeanOA/ForMathlib/Analysis/CStarAlgebra/SpecialFunctions/Abs.lean (hunk 4 above)
Comment (j-loreaux) [reply LeanOA/ForMathlib/Analysis/CStarAlgebra/SpecialFunctions/Abs.lean:112]: Yes, sure, we can play more fast and loose with this repo. There are fewer people (so far, just the two of us) to coordinate.

File: LeanOA/ForMathlib/Analysis/CStarAlgebra/SpecialFunctions/Abs.lean (hunk 3 above)
Comment (j-loreaux) [reply LeanOA/ForMathlib/Analysis/CStarAlgebra/SpecialFunctions/Abs.lean:81]: I *think* you won't need to duplicate this version (although they technically are different under the hood, as they are slightly different coercions under the hood; defeq, but not reducibly defeq).

That being said, having an `ℝ`-specific version (so that there is *no* coercion at all) might be nice.

File: LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean [hunk 18]
```diff
@@ -0,0 +1,285 @@
...
+namespace CFC
+
+section NonUnital
+
+variable {A : Type*} [NonUnitalNormedRing A] [StarRing A]
+
+section abs
+
+variable [PartialOrder A] [Module ℝ≥0 A] [SMulCommClass ℝ≥0 A A] [IsScalarTower ℝ≥0 A A]
+variable [NonUnitalContinuousFunctionalCalculus ℝ≥0 (fun (a : A) => 0 ≤ a)]
```
Comment (j-loreaux) [inline LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean:38]: When you need a CFC over a `ℝ≥0`, these are I think the default generic assumptions. 
I don't think you should ever really be assuming you have a CFC over `ℝ≥0` itself. And  working with a CFC for positive elements without `StarOrderedRing` is just weird. I think this will fix most of your problems. Note also, you don't need `Normed` anymore.
```lean
variable {A : Type*} [NonUnitalRing A] [StarRing A] [TopologicalSpace A]
variable [PartialOrder A] [StarOrderedRing A] [Module ℝ A] [SMulCommClass ℝ A A] [IsScalarTower ℝ A A]
variable [NonUnitalContinuousFunctionalCalculus ℝ (IsSelfAdjoint : A → Prop)]
variable [NonnegSpectrumClass ℝ A]
```
You can then edit these hypotheses mildly to get a complex algebra, when you need it, or a unital one.

File: LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean [hunk 19]
```diff
@@ -0,0 +1,285 @@
...
+    abs a = cfcₙ (‖·‖) a := by
+   simp only [abs, Real.norm_eq_abs, ← Real.sqrt_sq_eq_abs, sq]
+   rw [sqrt_eq_real_sqrt (star_mul_self_nonneg a), ha.star_eq, cfcₙ_sqrt_mul_self ha]
+
+section CStarRing
+
+variable [CStarRing A]
+
+lemma abs_eq_zero_iff {a : A} : abs a = 0 ↔ a = 0 := by
+  rw [abs, sqrt_eq_zero_iff _, CStarRing.star_mul_self_eq_zero_iff]
```
Comment (j-loreaux) [inline LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean:116]: This should really just assume `NonUnitalCStarAlgebra` instead of everything else. And it shouldn't go in this file.

File: LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean [hunk 20]
```diff
@@ -0,0 +1,285 @@
...
+
+variable {A : Type*} [NonUnitalNormedRing A] [StarRing A]
+section IsSelfAdjoint
+
+variable [Module ℝ A] [SMulCommClass ℝ A A] [IsScalarTower ℝ A A]
+variable [NonUnitalContinuousFunctionalCalculus ℝ (IsSelfAdjoint : A → Prop)]
+
+lemma mul_self_eq_mul_self {a : A} (ha : IsSelfAdjoint a := by cfc_tac) : a * a =
+    cfcₙ (fun (x : ℝ) ↦ x * x) a := by
+  conv_lhs => rw [← cfcₙ_id' ℝ a, ← cfcₙ_mul ..]
```
Comment (j-loreaux) [inline LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean:80]: This is a totally generic lemma and shouldn't be specialized to \R

File: LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean [hunk 21]
```diff
@@ -0,0 +1,285 @@
...
+section Unique
+
+variable [UniqueNonUnitalContinuousFunctionalCalculus ℝ A]
+
+lemma cfcₙ_sqrt_mul_self {a : A} (ha : IsSelfAdjoint a) :
+    cfcₙ Real.sqrt (a * a) = cfcₙ (fun x ↦ √(x * x)) a := by
+  rw [mul_self_eq_mul_self ha, ← cfcₙ_comp a (f := fun x ↦ x * x) (g := fun x ↦ √x),
+     Function.comp_def]
```
Comment (j-loreaux) [inline LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean:88]: I don't think we need this.

File: LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean [hunk 22]
```diff
@@ -0,0 +1,285 @@
...
+
+end RealAlgebra
+
+section AbsSMul
+
+variable [PartialOrder A] [StarOrderedRing A]
+variable [Module ℂ A] [IsScalarTower ℂ A A] [SMulCommClass ℂ A A]
+variable [NonUnitalContinuousFunctionalCalculus ℝ≥0 (fun (a : A) => 0 ≤ a)]
+variable [UniqueNonUnitalContinuousFunctionalCalculus ℝ≥0 A]
+variable [OrderedSMul ℝ A] [StarModule ℂ A]
```
Comment (j-loreaux) [inline LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean:198]: I think `#lint` will tell you you don't need this.
```suggestion
variable [StarModule ℂ A]
```

File: LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean [hunk 23]
```diff
@@ -0,0 +1,285 @@
...
+
+end NonUnital
+
+section Unital
+
+variable {A : Type*} [NormedRing A] [StarRing A]
+variable  [NormedAlgebra ℂ A] [PartialOrder A]
+section CompleteSpaceCFCNonneg
+
+variable [CompleteSpace A] [ContinuousFunctionalCalculus ℝ≥0 (fun (a : A) => 0 ≤ a)]
```
Comment (j-loreaux) [inline LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean:228]: Why do you need completeness?

File: LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean [hunk 24]
```diff
@@ -0,0 +1,285 @@
...
+
+lemma abs_natCast (n : ℕ) : abs (n : A) = n := by
+  simpa only [map_natCast, Nat.abs_cast] using abs_algebraMap_real (n : ℝ)
+
+end OrderedSMul
+
+variable [CStarRing A]
+
+@[simp]
+lemma norm_abs {a : A} : ‖abs a‖ = ‖a‖ := by
```
Comment (j-loreaux) [inline LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean:277]: This definitely doesn't belong in this file.

File: LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean [hunk 25]
```diff
@@ -0,0 +1,285 @@
...
+
+end CompleteSpaceCFCNonneg
+
+section CFCNonnegOrderedSMul
+
+variable [ContinuousFunctionalCalculus ℝ≥0 (fun (a : A) => 0 ≤ a)]
+
+lemma abs_star {a : A} (ha : IsStarNormal a) : abs (star a) = abs a := by
+  rw [abs, abs, star_comm_self, star_star]
+
```
Comment (j-loreaux) [inline LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean:254]: This doesn't need the algebra to be unital.

File: LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean [hunk 26]
```diff
@@ -0,0 +1,285 @@
...
+@[simp]
+lemma abs_neg (a : A) : abs (-a) = abs a := by
+  rw [← neg_one_smul ℝ a, abs_smul_real, _root_.abs_neg, _root_.abs_one, one_smul]
+
+variable [ContinuousFunctionalCalculus ℝ (IsSelfAdjoint : A → Prop)]
+variable [NonnegSpectrumClass ℝ A]
+
+lemma abs_of_nonpos {a : A} (ha : a ≤ 0) : abs a = -a := by
+  simp only [← abs_neg a, abs_of_nonneg <| neg_nonneg.mpr ha]
```
Comment (j-loreaux) [inline LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean:244]: these don't need it to be unital either.

**Review by j-loreaux — COMMENTED** [review]
Unfortunately, the type classes are still a mess.

**Comment by JonBannon** [comment]
To be expected, so no worries. Let me have a look.

File: LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean (hunk 19 above)
Comment (JonBannon) [reply LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean:116]: This is a good example of where I am puzzled. How are you determining that this is the right assumption? Indeed, there is a giant laundry list of typeclass assumptions I've included to get this result, and the reason for doing that was that if one had a `NonUnitalCStarAlgebra` instance, this instance would "contain" instances of these other things. Is it the case that we want to *exclude* this result from situations where you don't have all of `NonUnitalCStarAlgebra`? I.e. is it explicitly bad to have this result work in situations that contain fewer assumptions? (I also will have to look at this more closely, since you might also be saying that the frankenstein list was actually NOT going to work for `NonUnitalCStarAlgebra` instances because of the weird `NonUnitalNormedRing` assumptions or something like this. Anyhow, I'd like to know what the thinking is, here.)

File: LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean (hunk 26 above)
Comment (JonBannon) [reply LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean:244]: You are right. These are clearly misplaced!

File: LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean [hunk 27]
```diff
@@ -0,0 +1,236 @@
...
+
+@[simp]
+lemma abs_neg (a : A) : abs (-a) = abs a := by
+  simp [abs]
+
+@[simp]
+lemma abs_nonneg {a : A} : 0 ≤ abs a := sqrt_nonneg
+
+lemma abs_star {a : A} (ha : IsStarNormal a) : abs (star a) = abs a := by
+  rw [abs, abs, star_comm_self, star_star]
```
Comment (j-loreaux) [inline LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean:53]: untested
```suggestion
  simp [abs, star_comm_self]
```

File: LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean [hunk 28]
```diff
@@ -0,0 +1,236 @@
...
+
+@[simp]
+lemma abs_zero : abs (0 : A) = 0 := by
+  rw [abs, star_zero, mul_zero, sqrt_zero]
+
+variable [IsTopologicalRing A] [T2Space A]
+
+lemma abs_mul_self (a : A) : (abs a) * (abs a) = star a * a := by
```
Comment (j-loreaux) [inline LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean:61]:
```suggestion
lemma abs_mul_self (a : A) : abs a * abs a = star a * a := by
```

File: LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean [hunk 29]
```diff
@@ -0,0 +1,236 @@
...
+  refine sqrt_mul_sqrt_self _ <| star_mul_self_nonneg _
+
+lemma abs_nnrpow_two (a : A) : (abs a) ^ (2 : NNReal) = star a * a := by
```
Comment (j-loreaux) [inline LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean:64]: Although, to be honest, I don't really like this lemma (i.e., I don't like that `2 : ℝ≥0`, but I realize we're in a non-unital algebra).
```suggestion
lemma abs_nnrpow_two (a : A) : abs a ^ (2 : ℝ≥0) = star a * a := by
```

File: LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean [hunk 30]
```diff
@@ -0,0 +1,236 @@
...
+
+lemma abs_nnrpow_two_mul (a : A) (x : ℝ≥0) :
+    (abs a) ^ (2 * x) = (star a * a) ^ x := by rw [← nnrpow_nnrpow, abs_nnrpow_two]
+
+lemma abs_nnrpow (a : A) (x : ℝ≥0) :
+    (abs a) ^ x = (star a * a) ^ (x / 2) := by
+  simp only [← abs_nnrpow_two_mul, mul_div_left_comm, ne_eq, OfNat.ofNat_ne_zero,
+    not_false_eq_true, div_self, mul_one]
+
+lemma sqrt_eq_real_sqrt {a : A} (ha : 0 ≤ a := by cfc_tac) :
```
Comment (j-loreaux) [inline LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean:76]: Make `a` explicit here, per the library note.
```suggestion
lemma sqrt_eq_real_sqrt (a : A) (ha : 0 ≤ a := by cfc_tac) :
```

File: LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean [hunk 31]
```diff
@@ -0,0 +1,236 @@
...
+    CFC.sqrt a = cfcₙ Real.sqrt a := by
+  rw [sqrt_eq_iff _ (hb := cfcₙ_nonneg (A := A) (fun x _ ↦ Real.sqrt_nonneg x)),
+    ← cfcₙ_mul ..]
+  conv_rhs => rw [← cfcₙ_id (R := ℝ) a]
+  refine cfcₙ_congr fun x hx ↦ ?_
+  refine Real.mul_self_sqrt ?_
+  exact quasispectrum_nonneg_of_nonneg a ha x hx
+
+lemma abs_of_nonneg {a : A} (ha : 0 ≤ a) : abs a = a := by
```
Comment (j-loreaux) [inline LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean:85]: and elsewhere too:
```suggestion
lemma abs_of_nonneg (a : A) (ha : 0 ≤ a := by cfc_tac) : abs a = a := by
```

File: LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean [hunk 32]
```diff
@@ -0,0 +1,236 @@
...
+  rw [abs, ha.star_eq, sqrt_mul_self a ha]
+
+lemma abs_of_nonpos {a : A} (ha : a ≤ 0) : abs a = -a := by
+  simp only [← abs_neg a, abs_of_nonneg <| neg_nonneg.mpr ha]
+
+lemma abs_eq_norm {a : A} (ha : IsSelfAdjoint a) :
```
Comment (j-loreaux) [inline LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean:91]:
```suggestion
lemma abs_eq_norm (a : A) (ha : IsSelfAdjoint a := by cfc_tac) :
```

File: LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean (hunk 28 above)
Comment (JonBannon) [reply LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean:61]: blast it...

File: LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean [hunk 33]
```diff
@@ -0,0 +1,236 @@
...
+
+lemma abs_smul_real (r : ℝ) (a : A) : abs (r • a) = |r| • abs a := by
+  have : 0 ≤ |r| • abs a := smul_nonneg (by positivity) abs_nonneg
+  rw [abs, CFC.sqrt_eq_iff _ _ (star_mul_self_nonneg _) this]
+  simp only [mul_smul_comm, smul_mul_assoc, abs_mul_self, star_smul]
+  match_scalars
+  simp
+
+lemma abs_smul_nnreal (r : ℝ≥0) (a : A) : abs (r • a) = r • abs a := by
+  simpa [NNReal.abs_eq] using abs_smul_real r a
```
Comment (j-loreaux) [inline LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean:126]: It occurred to me that we actually want `abs (r • a) = r • abs a` not just for `r : ℝ≥0`, but really for any nonnegative value (e.g., for `r : ℕ` or `r : ℚ≥0`). And it turns out that there's a way to state this so that it holds for those (and even for any subsemiring of `ℝ≥0`). In actual fact, we don't get it immediately for `ℚ≥0` because a `Module ℝ A` instance doesn't imply a `Module ℚ A` instance, but the true case we want is `ℕ` anyway. Moreover, we want both of these to be `simp` lemmas. Here's what I came up with.
```suggestion
@[simp]
lemma abs_smul_nonneg {R : Type*} [LinearOrderedSemiring R] [SMulWithZero R ℝ≥0] [OrderedSMul R ℝ≥0]
    [SMul R A] [IsScalarTower R ℝ≥0 A] (r : R) (a : A) : abs (r • a) = r • abs a := by
  suffices ∀ r : ℝ≥0, abs (r • a) = r • abs a by simpa using this (r • 1)
  intro r
  rw [abs, sqrt_eq_iff _ _ (star_mul_self_nonneg _) (smul_nonneg (by positivity) abs_nonneg)]
  simp [mul_smul_comm, smul_mul_assoc, abs_mul_abs_self]

@[simp]
lemma abs_smul (r : ℝ) (a : A) : abs (r • a) = |r| • abs a := by
  cases r using Real.nnreal_dichotomy
  all_goals simp [← NNReal.smul_def]
```
The proof of `abs_smul` uses a lemma which doesn't exist yet, but it should! It should go in a different file, but it can also be PR'ed directly to Mathlib (you can keep a copy in this PR though).
```lean
@[elab_as_elim]
lemma Real.nnreal_dichotomy {p : ℝ → Prop} (nonneg : ∀ x : ℝ≥0, p x)
    (nonpos : ∀ x : ℝ≥0, p x → p (-x)) (r : ℝ) : p r := by
  obtain (hr | hr) : 0 ≤ r ∨ 0 ≤ -r := by simpa using le_total ..
  all_goals
    rw [← neg_neg r]
    lift (_ : ℝ) to ℝ≥0 using hr with r
    aesop

@[elab_as_elim]
lemma Real.nnreal_trichotomy {p : ℝ → Prop} (zero : p 0) (pos : ∀ x : ℝ≥0, 0 < x → p x)
    (neg : ∀ x : ℝ≥0, 0 < x → p x → p (-x)) (r : ℝ) : p r := by
  obtain (hr | rfl | hr) : 0 < r ∨ 0 = r ∨ 0 < -r := by simpa using lt_trichotomy 0 r
  case inr.inl => exact zero
  all_goals
    rw [← neg_neg r]
    lift (_ : ℝ) to ℝ≥0 using hr.le with r
    aesop
```
These lemmas allow you to prove facts about predicates involving real numbers by proving it for `p ↑x` and `p (-↑x)`, where `x : ℝ≥0`. Effectively, they are a combination of doing a case split with `le_total` or `lt_trichotomy` and then using the resulting inequalities to lift `x` to `ℝ≥0`. If you do this once, you'll realize it's a painful pattern, and these lemmas makes it trivial. Potentially, a better name for these is `Real.nnreal_induction_on` or something to that effect.

File: LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean [hunk 34]
```diff
@@ -0,0 +1,236 @@
...
+
+variable [NonUnitalRing A] [TopologicalSpace A] [Module ℂ A]
+
+variable [StarRing A] [PartialOrder A] [StarOrderedRing A]
+variable [IsScalarTower ℂ A A] [SMulCommClass ℂ A A]
+variable [NonUnitalContinuousFunctionalCalculus ℂ (IsStarNormal : A → Prop)]
+
+open ComplexOrder in
+lemma cfcₙ_norm_sq_nonneg {f : ℂ → ℂ} {a : A} : 0 ≤ cfcₙ (fun z ↦ star (f z) * (f z)) a :=
+  cfcₙ_nonneg fun _ _ ↦ star_mul_self_nonneg _
```
Comment (j-loreaux) [inline LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean:140]: This result is super general (it works in any functional calculus where the underlying ring `R` is a `StarOrderedRing`). Please generalize and move it. You can put this with the `Real` lemmas above in a `ForMathlib/Miscellany.lean` file. The generalized version can be PR'ed to Mathlib if you think they're actually worth it. Note that because it has no hypothesis, it's tempting to make it a `simp` lemma, but `simp` doesn't index the lambda, so this has a terrible `simp` key:
```
@LE.le _ _ 0 (@cfcₙ ℂ _ _ _ _ _ _ _ _ _ _ _ _ _ _ _ <other> _)
```
i.e., it basically sees `0 ≤ cfcₙ (* : ℂ → ℂ)` and so it would match many things, and the generalized key wouldn't even have the `ℂ` to help. Therefore this is not a good `simp` lemma.

File: LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean [hunk 35]
```diff
@@ -0,0 +1,236 @@
...
+
+open ComplexOrder in
+lemma cfcₙ_norm_nonneg {a : A} : 0 ≤ cfcₙ (fun z : ℂ ↦ (‖z‖ : ℂ)) a :=
+  cfcₙ_nonneg fun _ _ ↦ by simp only [Complex.zero_le_real, norm_nonneg]
```
Comment (j-loreaux) [inline LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean:144]: Here's a trivial generalization, but I think it should actually be generalized further to `RCLike 𝕜` instead of `ℂ`. Moreover, this, and it's unital counterpart, should be placed in a more general file (probably we can have a `Mathlib.Analysis.CStarAlgebra.ContinuousFunctionalCalculus.RCLike` file).
```suggestion
lemma cfcₙ_norm_nonneg (f : ℂ → ℂ) (a : A) : 0 ≤ cfcₙ (fun z : ℂ ↦ (‖f z‖ : ℂ)) a :=
  cfcₙ_nonneg fun _ _ ↦ by simp [Complex.zero_le_real]
```
Again, for now, you can just put it in a `ForMathlib/Miscellany.lean` file in this repo.

I wonder how many of the results in this section can be generalized to `RCLike`. That would be nice if possible.

File: LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean [hunk 36]
```diff
@@ -0,0 +1,236 @@
...
+
+variable [NonnegSpectrumClass ℝ A] [IsTopologicalRing A] [T2Space A]
+
+lemma abs_sq_eq_cfcₙ_norm_sq_complex (a : A) (ha : IsStarNormal a) :
+    abs a ^ (2 : NNReal) = cfcₙ (fun z : ℂ ↦ (‖z‖ ^ 2 : ℂ)) a := by
+  conv_lhs => rw [abs_nnrpow_two, ← cfcₙ_id' ℂ a, ← cfcₙ_star, ← cfcₙ_mul ..]
+  exact cfcₙ_congr fun x hx ↦ Complex.conj_mul' x
```
Comment (j-loreaux) [inline LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean:151]: optional, just noting that this works here. (because these functions are equal *everywhere*, so we don't need the full power of `cfcₙ_congr` which only requires equality on the spectrum.)
```suggestion
  simp [Complex.conj_mul']
```

File: LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean [hunk 37]
```diff
@@ -0,0 +1,236 @@
...
+
+lemma abs_eq_cfcₙ_norm_complex (a : A) (ha : IsStarNormal a) :
+    abs a = cfcₙ (fun z : ℂ ↦ (‖z‖ : ℂ)) a := by
+  conv_lhs => rw [abs, ← abs_nnrpow_two, sqrt_eq_real_sqrt .., cfcₙ_real_eq_complex,
+    abs_sq_eq_cfcₙ_norm_sq_complex a ha, ← cfcₙ_comp' ..]
+  exact cfcₙ_congr fun x hx ↦ by simp [sq]
```
Comment (j-loreaux) [inline LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean:157]: Likewise
```suggestion
  simp [sq]
```

File: LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean [hunk 38]
```diff
@@ -0,0 +1,236 @@
...
+  · rw [← cfcₙ_comp' ..]
+  · rw [cfcₙ_apply_of_not_map_zero _ hf0, cfcₙ_apply_of_not_map_zero _ (fun h ↦ (hf0 <| by simpa using h).elim)]
+
+variable [StarModule ℂ A] in
+lemma abs_smul_complex (r : ℂ) (a : A) : abs (r • a) = ‖r‖ • abs a := by
+  have : 0 ≤ ‖r‖ • abs a := smul_nonneg (by positivity) abs_nonneg
+  rw [abs, CFC.sqrt_eq_iff _ _ (star_mul_self_nonneg _) this]
+  simp only [mul_smul_comm, smul_mul_assoc, abs_mul_self, star_smul]
+  match_scalars
+  rw [mul_one, mul_one, ← sq, mul_comm, RCLike.star_def, Complex.conj_mul', ← Complex.coe_algebraMap]
```
Comment (j-loreaux) [inline LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean:173]: I think switching the order of the terms in the name makes more sense. Note that the proof makes use of `abs_smul` being a `simp` lemma now.
```suggestion
lemma abs_complex_smul (r : ℂ) (a : A) : abs (r • a) = ‖r‖ • abs a := by
  trans abs (‖r‖ • a)
  · simp [abs, mul_smul_comm, smul_mul_assoc, abs_mul_abs_self, star_smul, ← smul_assoc,
      ← Complex.coe_smul, Complex.mul_conj', sq]
  · simp
```
EDIT: I bet this generalizes relatively easily to `RCLike 𝕜`, and then we can just have one lemma for both instead of need `abs_smul` and `abs_complex_smul`.

File: LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean [hunk 39]
```diff
@@ -0,0 +1,236 @@
...
+
+section Real
+
+variable [Ring A] [StarRing A] [PartialOrder A] [StarOrderedRing A] [TopologicalSpace A] [Algebra ℝ A] [IsTopologicalRing A] [T2Space A]
+variable [ContinuousFunctionalCalculus ℝ (IsSelfAdjoint : A → Prop)]
+variable [NonnegSpectrumClass ℝ A]
+
+@[simp]
+lemma abs_one : abs (1 : A) = 1 := by
+  rw [abs, star_one , mul_one, sqrt_one]
```
Comment (j-loreaux) [inline LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean:189]: :golf:
```suggestion
  simp [abs]
```

File: LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean [hunk 40]
```diff
@@ -0,0 +1,236 @@
...
+
+variable [StarModule ℝ A]
+
+lemma abs_algebraMap_real (c : ℝ) : abs (algebraMap ℝ A c) = algebraMap ℝ A |c| := by
+  simp only [Algebra.algebraMap_eq_smul_one, abs_smul_real, abs_one]
```
Comment (j-loreaux) [inline LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean:194]: Should be `simp`. :golf: (I do prefer `simp` to `simp only` when it's fast, as it's less prone to breakage)
```suggestion
@[simp]
lemma abs_algebraMap_real (c : ℝ) : abs (algebraMap ℝ A c) = algebraMap ℝ A |c| := by
  simp [Algebra.algebraMap_eq_smul_one]
```

File: LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean [hunk 41]
```diff
@@ -0,0 +1,236 @@
...
+
+lemma abs_algebraMap_nnreal (x : ℝ≥0) : abs (algebraMap ℝ≥0 A x) = algebraMap ℝ≥0 A x := by
+  simpa only [NNReal.abs_eq] using abs_algebraMap_real (NNReal.toReal _)
```
Comment (j-loreaux) [inline LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean:197]: This could be generalized like `abs_smul_nonneg`, but I think it *shouldn't* be, since the simp normal form of `algebraMap ℕ A n` is `Nat.cast n : A`.
```suggestion
@[simp]
lemma abs_algebraMap_nnreal (x : ℝ≥0) : abs (algebraMap ℝ≥0 A x) = algebraMap ℝ≥0 A x := by
  simp [Algebra.algebraMap_eq_smul_one]
```

File: LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean [hunk 42]
```diff
@@ -0,0 +1,236 @@
...
+
+lemma abs_natCast (n : ℕ) : abs (n : A) = n := by
```
Comment (j-loreaux) [inline LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean:199]:
```suggestion
@[simp]
lemma abs_natCast (n : ℕ) : abs (n : A) = n := by
```

File: LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean [hunk 43]
```diff
@@ -0,0 +1,236 @@
...
+  simpa only [map_natCast, Nat.abs_cast] using abs_algebraMap_real (n : ℝ)
+
```
Comment (j-loreaux) [inline LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean:201]: The first of these makes `simp` succeed with literal natural numbers (e.g., it allows it to convert `abs 3` to `3`.
```suggestion

@[simp]
lemma abs_ofNat (n : ℕ) [n.AtLeastTwo] : abs (ofNat(n) : A) = ofNat(n) := by
  simpa using abs_natCast n

@[simp]
lemma abs_intCast (n : ℤ) : abs (n : A) = |n| := by
  cases n with
  | ofNat _ => simp
  | negSucc n =>
    rw [Int.cast_negSucc, abs_neg, abs_natCast, ← Int.cast_natCast]
    congr

```

File: LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean [hunk 44]
```diff
@@ -0,0 +1,236 @@
...
+end Real
+
+section Complex
+
+variable [Ring A] [StarRing A] [PartialOrder A] [StarOrderedRing A] [TopologicalSpace A] [Algebra ℂ A] [IsTopologicalRing A] [T2Space A]
+variable [ContinuousFunctionalCalculus ℂ (IsStarNormal : A → Prop)]
+variable [NonnegSpectrumClass ℝ A] [StarModule ℂ A]
+
+lemma abs_algebraMap_complex (c : ℂ) : abs (algebraMap ℂ A c) = algebraMap ℝ A (norm c : ℝ) := by
+  simp only [Algebra.algebraMap_eq_smul_one, abs_smul_complex, abs_one]
```
Comment (j-loreaux) [inline LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean:211]: If we can generalize `abs_complex_smul` as mentioned above, then this can be generalized also.

File: LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean [hunk 45]
```diff
@@ -0,0 +1,236 @@
...
+end Generic
+
+section CStar
+
+variable [NonUnitalNormedRing A] [StarRing A]
+variable [PartialOrder A] [StarOrderedRing A] [NormedSpace ℝ A] [SMulCommClass ℝ A A] [IsScalarTower ℝ A A]
+variable [NonUnitalContinuousFunctionalCalculus ℝ (IsSelfAdjoint : A → Prop)]
+variable [NonnegSpectrumClass ℝ A] [CStarRing A]
+
+lemma abs_eq_zero_iff {a : A}  : abs a = 0 ↔ a = 0 := by
```
Comment (j-loreaux) [inline LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean:226]:
```suggestion
@[simp]
lemma abs_eq_zero_iff {a : A}  : abs a = 0 ↔ a = 0 := by
```

File: LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean [hunk 46]
```diff
@@ -0,0 +1,236 @@
...
+lemma abs_algebraMap_complex (c : ℂ) : abs (algebraMap ℂ A c) = algebraMap ℝ A (norm c : ℝ) := by
+  simp only [Algebra.algebraMap_eq_smul_one, abs_smul_complex, abs_one]
+
+end Complex
+
+end Unital
+
+end Generic
+
+section CStar
```
Comment (j-loreaux) [inline LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean:219]: I think the results in this section should go in `ForMathlib/Analysis/CStarAlgebra/SpecialFunctions/Abs.lean` since they need `CStarRing`.

File: LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean [hunk 47]
```diff
@@ -0,0 +1,236 @@
...
+Authors: Jon Bannon, Jireh Loreaux
+-/
+
+import Mathlib.Analysis.CStarAlgebra.ContinuousFunctionalCalculus.Order
+
+/-!
+# Absolute value of an operator defined via the continuous functional calculus
+
+This file defines the absolute value via the (unital and non unital) continuous functional calculus
+(CFC) and (CFCₙ), and includes foundational API.
```
Comment (j-loreaux) [inline LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean:13]:
```suggestion
This file defines the absolute value via the non-unital continuous functional calculus
and includes foundational API.
```

**Comment by JonBannon** [comment]
Awesome. Will look.

File: LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean [hunk 48]
```diff
@@ -0,0 +1,236 @@
...
+lemma abs_nnrpow (a : A) (x : ℝ≥0) :
+    (abs a) ^ x = (star a * a) ^ (x / 2) := by
+  simp only [← abs_nnrpow_two_mul, mul_div_left_comm, ne_eq, OfNat.ofNat_ne_zero,
+    not_false_eq_true, div_self, mul_one]
+
+lemma sqrt_eq_real_sqrt (a : A) (ha : 0 ≤ a := by cfc_tac) :
+    CFC.sqrt a = cfcₙ Real.sqrt a := by
+  rw [sqrt_eq_iff _ (hb := cfcₙ_nonneg (A := A) (fun x _ ↦ Real.sqrt_nonneg x)),
+    ← cfcₙ_mul ..]
+  conv_rhs => rw [← cfcₙ_id (R := ℝ) a]
```
[the remark this answers is not in the document]
Comment (JonBannon) [reply LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean:80]: I somehow feel like 'conv' could be trouble...so it's good to get rid of them.

**Comment by j-loreaux** [comment]
Here's some code that does the `RCLike` versions. I think we do want this, especially so that we have `cfcₙ_comp_norm` below.
```lean
section RCLike

variable {𝕜 A : Type*} {p : A → Prop} [RCLike 𝕜]
variable [NonUnitalRing A] [TopologicalSpace A] [Module 𝕜 A]
variable [StarRing A] [PartialOrder A] [StarOrderedRing A]
variable [IsScalarTower 𝕜 A A] [SMulCommClass 𝕜 A A]
variable [NonUnitalContinuousFunctionalCalculus 𝕜 p]

open ComplexOrder

lemma cfcₙ_norm_sq_nonneg {f : 𝕜 → 𝕜} {a : A} : 0 ≤ cfcₙ (fun z ↦ star (f z) * (f z)) a :=
  cfcₙ_nonneg fun _ _ ↦ star_mul_self_nonneg _

lemma cfcₙ_norm_nonneg (f : 𝕜 → 𝕜) (a : A) : 0 ≤ cfcₙ (fun z : 𝕜 ↦ (‖f z‖ : 𝕜)) a :=
  cfcₙ_nonneg fun _ _ ↦ by simp

variable [Module ℝ A] [SMulCommClass ℝ A A] [IsScalarTower ℝ A A]
variable [NonnegSpectrumClass ℝ A] [IsTopologicalRing A] [T2Space A]
variable [NonUnitalContinuousFunctionalCalculus ℝ (IsSelfAdjoint : A → Prop)]

variable [StarModule 𝕜 A] [StarModule ℝ A] [IsScalarTower ℝ 𝕜 A] in
lemma abs_rclike_smul (r : 𝕜) (a : A) : abs (r • a) = ‖r‖ • abs a := by
  trans abs (‖r‖ • a)
  · simp [abs, mul_smul_comm, smul_mul_assoc, abs_mul_abs_self, star_smul, ← smul_assoc]
    simp only [RCLike.real_smul_eq_coe_smul (K := 𝕜)]
    simp [-algebraMap_smul, ← smul_mul_assoc, smul_smul, ← mul_comm (starRingEnd _ _), RCLike.conj_mul, sq]
  · simp [abs_smul]

lemma abs_sq_eq_cfcₙ_norm_sq (a : A) (ha : p a := by cfc_tac) :
    abs a ^ (2 : ℝ≥0) = cfcₙ (fun z : 𝕜 ↦ (‖z‖ ^ 2 : 𝕜)) a := by
  conv_lhs => rw [abs_nnrpow_two, ← cfcₙ_id' 𝕜 a, ← cfcₙ_star, ← cfcₙ_mul ..]
  simp [RCLike.conj_mul]

lemma abs_eq_cfcₙ_norm (a : A) (ha : p a := by cfc_tac) :
    abs a = cfcₙ (fun z : 𝕜 ↦ (‖z‖ : 𝕜)) a := by
  rw [abs, sqrt_eq_iff _ _ (hb := cfcₙ_norm_nonneg _ _), ← abs_nnrpow_two, abs_sq_eq_cfcₙ_norm_sq (𝕜 := 𝕜) a ha]
  conv_lhs => rw [← cfcₙ_id' 𝕜 a, ← cfcₙ_mul ..]
  simp [sq, cfcₙ_id' 𝕜 a]

lemma cfcₙ_comp_norm (f : 𝕜 → 𝕜) (a : A) (ha : p a := by cfc_tac)
    (hf : ContinuousOn f ((fun z ↦ (‖z‖ : 𝕜)) '' quasispectrum 𝕜 a) := by cfc_cont_tac) :
    cfcₙ f (abs a) = cfcₙ (fun x ↦ f ‖x‖) a := by
  obtain (hf0 | hf0) := em (f 0 = 0)
  · rw [cfcₙ_comp' f (fun x ↦ (‖x‖ : 𝕜)) a, ← abs_eq_cfcₙ_norm a]
  · rw [cfcₙ_apply_of_not_map_zero _ hf0, cfcₙ_apply_of_not_map_zero _ (fun h ↦ (hf0 <| by simpa using h).elim)]

end RCLike
```

File: LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean [hunk 49]
```diff
@@ -0,0 +1,236 @@
...
+@[simp]
+lemma abs_zero : abs (0 : A) = 0 := by
+  rw [abs, star_zero, mul_zero, sqrt_zero]
+
+variable [IsTopologicalRing A] [T2Space A]
+
+lemma abs_mul_self (a : A) : abs a * abs a = star a * a := by
+  refine sqrt_mul_sqrt_self _ <| star_mul_self_nonneg _
+
+lemma abs_nnrpow_two (a : A) : (abs a) ^ (2 : ℝ≥0) = star a * a := by
```
[the remark this answers is not in the document]
Comment (JonBannon) [reply LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean:64]: Damned parens!

File: LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean [hunk 50]
```diff
@@ -0,0 +1,236 @@
...
+   rw [sqrt_eq_real_sqrt (ha := star_mul_self_nonneg a), ha.star_eq, H]
+
+protected lemma posPart_add_negPart (a : A) (ha : IsSelfAdjoint a := by cfc_tac) : abs a = a⁺ + a⁻ := by
+  rw [CFC.posPart_def, CFC.negPart_def, ← cfcₙ_add .., abs_eq_norm a ha]
+  exact cfcₙ_congr fun x hx ↦ (posPart_add_negPart x).symm
+
+lemma abs_sub_self (a : A) (ha : IsSelfAdjoint a := by cfc_tac) : abs a - a = 2 • a⁻ := by
+  nth_rw 2 [← CFC.posPart_sub_negPart a]
+  rw [CFC.posPart_add_negPart a]
+  abel
```
[the remark this answers is not in the document]
Comment (JonBannon) [reply LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean:105]: Whoa!

File: LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean (hunk 34 above)
Comment (JonBannon) [reply LeanOA/ForMathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Abs.lean:162]: How do you see the `simp` key like this?
